US07304156B2
In a 25 mL-volume glass flask equipped with a stirrer, a thermometer and a reflux condenser were placed 1.00 g (3.43 mmol.) of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine and 3.4 mL (3.7 mmol.) of phosphorus oxychloride. The mixture was heated to 100-106° C. for 1.5 hours under refluxing, to carry out reaction. After the reaction was complete, the reaction mixture was cooled to room temperature, and poured into an ice/water mixture. The resulting aqueous mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution. The neutralized aqueous mixture was extracted with ethyl acetate. The ethyl acetate portion was separated, washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The dried ethyl acetate portion was filtered and concentrated under reduced pressure, to obtain 1.03 g of 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine as a colorless crystalline product having the below-mentioned characteristics. The yield was 97% (based on the amount of 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine).

reactant | 4-(4-fluorophenyl)-2-hydroxy-6-isopropyl-5-methoxycarbonylpyrimidine | 3.43 mmol, 1.00 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1C(=O)OC)C(C)C)O | C15H15FN2O3
reactant | phosphorus oxychloride | 3.7 mmol, 3.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-chloro-4-(4-fluorophenyl)-6-isopropyl-5-methoxycarbonylpyrimidine | 1.03 g, yield was 97% | ClC1=NC(=C(C(=N1)C1=CC=C(C=C1)F)C(=O)OC)C(C)C | C15H14ClFN2O2
